US07863442B2
4-Amino-2-methyl-10H-thieno-[2,3-b][1,5]benzodiazepine (5 g, 0.02 mol), N-methylpiperazine (12.5 mL, 2.5 vol) and 1-propanol (15 mL, 3 vol) were charged into a three-necked round bottom flask equipped with a reflux condenser, overhead stirrer, and thermometer. The reaction mixture was heated slowly to 110° C. under a nitrogen atmosphere and then refluxed overnight. The reaction mixture was cooled to below 50° C. whereupon water (15 mL, 3 volumes) was added to precipitate out the solid, which was isolated by Buchner filtration. The resulting light yellow solid was washed twice with water (5 mL) and dried to afford olanzapine in 89% yield (5.22 g).

reactant | 4-Amino-2-methyl-10H-thieno-[2,3-b][1,5]benzodiazepine | 0.02 mol, 5 g | NC=1C2=C(NC3=C(N1)C=CC=C3)SC(=C2)C | C12H11N3S
reactant | N-methylpiperazine | 12.5 mL | CN1CCNCC1 | C5H12N2
reactant | 1-propanol | 15 mL | C(CC)O | C3H8O
solvent | water | 15 mL | O | H2O
product | olanzapine | 89% yield | CC1=CC2=C(S1)NC=3C=CC=CC3N=C2N4CCN(CC4)C | C17H20N4S
